US04607041
3-Methyl 5-(1-methylethyl) 4-(4-benzofurazanyl)-1,2,3,4-tetrahydro-2-hydroxy-6-methyl-2-phenyl-3,5-pyridinedicarboxylate
4-Benzofurazancarboxaldehyde (2.96 g, 20 mmoles), methyl beta-oxobenzenepropanoate (3.56 g, 20 mmoles), piperidine (0.05 ml) and hexanoic acid (0.13 ml) were heated at reflux for 3 hours in benzene (50 ml) using a Dean and Stark apparatus. The reaction was cooled, diluted with ethyl acetate and washed in turn with water, brine and saturated sodium bicarbonate and dried (Na2SO4). The solvent was removed in vacuo and the residue dissolved in ethanol (6 ml). 1-Methylethyl 3-amino-2-butenoate (3.0 g) and diethylamine (0.6 ml) were added and the mixture heated at 60° for 34 hours. The reaction mixture was cooled, evaporated to dryness in vacuo and the residue was dissolved in 2-propanol and treated with charcoal. The charcoal was filtered off and the title compound (1.1 g) was obtained on addition of cyclohexane mp 132°-4°.

reactant | 4-Benzofurazancarboxaldehyde | 20 mmoles, 2.96 g | N1=C2C(=NO1)C(=CC=C2)C=O | C7H4N2O2
reactant | methyl beta-oxobenzenepropanoate | 20 mmoles, 3.56 g | O=C(CC(=O)OC)C1=CC=CC=C1 | C10H10O3
reactant | piperidine | 0.05 ml | N1CCCCC1 | C5H11N
reactant | hexanoic acid | 0.13 ml | C(CCCCC)(=O)O | C6H12O2
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Methyl 5-(1-methylethyl) 4-(4-benzofurazanyl)-1,2,3,4-tetrahydro-2-hydroxy-6-methyl-2-phenyl-3,5-pyridinedicarboxylate | 1.1 g | N1=C2C(=NO1)C(=CC=C2)C2C(C(NC(=C2C(=O)OC(C)C)C)(C2=CC=CC=C2)O)C(=O)OC | C24H25N3O6
